US09328118B2
Triethylamine (30 μL), 1H-benzotriazole-1-methanol (48 mg), and sodium triacetoxyborohydride (91 mg) were added to a solution of 9-methyl-6-{6-[2-(piperidin-4-yl)ethoxy]-5-(trifluoromethyl)pyridin-3-yl}-9H-purine-2-carbonitrile monohydrochloride (100 mg) in THF (1.5 mL)-EtOH (1.5 mL), and the mixture was stirred at room temperature for 16 hours. After a saturated aqueous NaHCO3 solution and EtOAc were added to the reaction mixture, extraction thereof was performed using EtOAc, and the extract was washed with saturated brine. The organic layer was dried over MgSO4 and filtered, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (CHCl3:MeOH=100:0 to 80:20), whereby 9-methyl-6-{6-[2-(1-methylpiperidin-4-yl)ethoxy]-5-(trifluoromethyl)pyridin-3-yl}-9H-purine-2-carbonitrile (57 mg) was obtained as a solid.

reactant | 1H-benzotriazole-1-methanol | 48 mg | N1(N=NC2=C1C=CC=C2)CO | C7H7N3O
reactant | sodium triacetoxyborohydride | 91 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 9-methyl-6-{6-[2-(piperidin-4-yl)ethoxy]-5-(trifluoromethyl)pyridin-3-yl}-9H-purine-2-carbonitrile monohydrochloride | 100 mg | Cl.CN1C2=NC(=NC(=C2N=C1)C=1C=NC(=C(C1)C(F)(F)F)OCCC1CCNCC1)C#N
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | EtOH | 1.5 mL | CCO | C2H6O
solvent | Triethylamine | 30 μL | C(C)N(CC)CC | C6H15N
product | 9-methyl-6-{6-[2-(1-methylpiperidin-4-yl)ethoxy]-5-(trifluoromethyl)pyridin-3-yl}-9H-purine-2-carbonitrile | 57 mg | CN1C2=NC(=NC(=C2N=C1)C=1C=NC(=C(C1)C(F)(F)F)OCCC1CCN(CC1)C)C#N | C21H22F3N7O
